US07534797B2
3-(8-Chloro-imidazo[1,5-a]pyrazin-3-yl)-1-hydroxymethyl-cyclobutanol
To a THF solution (170 mL) of 8-chloro-3-(3-methylene-cyclobutyl)-imidazo[1,5-a]pyrazine (3.1 g, 14 mmol), water (18 mL), 50% N-methylmorpholine-N-oxide in water (3.2 mL) and potassium osmate, dehydrate (200 mg, 0.70 mmol) were added and the reaction was allowed to stir at rt for 4 h. Sodium sulfite (8.0 g, 70.0 mmol) was added to the reaction mixture and allowed to stir for 30 min at which point the reaction was concentrated in vacuo. The crude product was extracted from the aqueous with EtOAc. The organics were washed with brine and the combined aqueous washes were back extracted with EtOAc (5×50 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated in vacuo to yield the title compounds as a sticky tan/off-white solid; MS (ES+): m/z 254.17 (100) [MH+], 256.19 (50) [MH+++]; HPLC: tR=1.95 min (OpenLynx, polar—5 min).

reactant | THF | 170 mL | C1CCOC1 | C4H8O
reactant | 8-chloro-3-(3-methylene-cyclobutyl)-imidazo[1,5-a]pyrazine | 14 mmol, 3.1 g | ClC=1C=2N(C=CN1)C(=NC2)C2CC(C2)=C | C11H10ClN3
reactant | N-methylmorpholine-N-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Sodium sulfite | 70.0 mmol, 8.0 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 3.2 mL | O | H2O
reactant | water | 18 mL | O | H2O
product | 3-(8-Chloro-imidazo[1,5-a]pyrazin-3-yl)-1-hydroxymethyl-cyclobutanol | ClC=1C=2N(C=CN1)C(=NC2)C2CC(C2)(O)CO | C11H12ClN3O2
